US03939159
3.39 g (0.03 mole) of 1-methyl-4-piperidone and 5 ml. of glacial acetic acid are added to a solution of 6.81 g (0.03 mole) of 1-(2-amino-4,5-dichlorophenyl)pyrrole in 100 ml. of absolute ethanol. The solution is refluxed for 50 hours and concentrated, and the residue is dissolved in water. The solution is filtered and basified. A solid precipitates and is filtered, dried, and recrystallized from ethanol to give 7,8-dichloro-4,5-dihydro-1'-methylspiro[pyrrolo(1,2-a)quinoxaline-4,4'-piperidine], m.p. 214°-215° C.

reactant | 1-methyl-4-piperidone | 0.03 mole, 3.39 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-(2-amino-4,5-dichlorophenyl)pyrrole | 0.03 mole, 6.81 g | NC1=C(C=C(C(=C1)Cl)Cl)N1C=CC=C1 | C10H8Cl2N2
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dichloro-4,5-dihydro-1'-methylspiro[pyrrolo(1,2-a)quinoxaline-4,4'-piperidine] | ClC=1C=C2NC3(CCN(CC3)C)C=3N(C2=CC1Cl)C=CC3 | C16H17Cl2N3
